US05730903
In a flask were placed 3.78 g (0.024 mole) of 1-chloro-2,4-nonadiyne thus obtained, 3.32 g (0.02 mole) of ethyl 4-hydroxybenzoate, 5.5 g (0.04 mole) of potassium carbonate, and 50 ml of acetone and the mixture was refluxed by heating for 11 hours. After allowing to cool the reaction mixture to room temperature, the reaction mixture was poured in 250 ml of ice-water and the product was extracted with methylene chloride. After distilling off the solvent of the organic layer, the residue formed was purified by a silica gel column chromatography(developing solvent: hexane/ethyl acetate=3/1) to provide 4.0 g (yield 70%) of ethyl 4-(2,4-nonadiynyloxy)-benzoate.

reactant | ethyl 4-hydroxybenzoate | 0.02 mole, 3.32 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 0.04 mole, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | ethyl 4-(2,4-nonadiynyloxy)-benzoate | 4.0 g, yield 70% | C(C#CC#CCCCC)OC1=CC=C(C(=O)OCC)C=C1 | C18H20O3
